US09034866B2
10-bromo-9-fluoro-N3-methyl-5,6-dihydrobenzo [f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide was reacted with 1-ethynylcyclobutanol via General Procedure F to afford 26 mg (25%) of 9-fluoro-10-[2-(1-hydroxycyclobutyl)ethynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide.

reactant | 10-bromo-9-fluoro-N3-methyl-5,6-dihydrobenzo [f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1)F | C14H12BrFN4O3
reactant | 1-ethynylcyclobutanol | C(#C)C1(CCC1)O | C6H8O
product | 9-fluoro-10-[2-(1-hydroxycyclobutyl)ethynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 26 mg, 25% | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C=C1C#CC1(CCC1)O | C20H19FN4O4
